.subckt and4i_x1 A B1 B2 B3 X VDD VSS
XA4I_P0 in0_b A VDD VDD pmos w=2u l=100n
XA4I_N0 in0_b A VSS VSS nmos w=1u l=100n
XA4I0_PA0 nand4i_out in0_b VDD VDD pmos w=2u l=100n
XA4I0_PB0 nand4i_out B1 VDD VDD pmos w=2u l=100n
XA4I0_PC0 nand4i_out B2 VDD VDD pmos w=2u l=100n
XA4I0_PD0 nand4i_out B3 VDD VDD pmos w=2u l=100n
XA4I0_ND0 nand4i_out B3 na4_3 VSS nmos w=1u l=100n
XA4I0_NC0 na4_3 B2 na4_2 VSS nmos w=1u l=100n
XA4I0_NB0 na4_2 B1 na4_1 VSS nmos w=1u l=100n
XA4I0_NA0 na4_1 in0_b VSS VSS nmos w=1u l=100n
XA4II0_P0 X nand4i_out VDD VDD pmos w=2u l=100n
XA4II0_N0 X nand4i_out VSS VSS nmos w=1u l=100n
.ends and4i_x1
